US07638515B2
2,6-Difluoroanisole
20 g (153.74 mmol) of 2,6-difluorophenol is dissolved in 200 ml of acetone and mixed under nitrogen with 42.5 g (307.48 mmol) of potassium carbonate. After 19.1 ml of methyl iodide (2 equivalents) is added, it is refluxed for three and one-half hours. After cooling, the reaction mixture is filtered, the filter residue is washed with acetone, and the filtrate is spun in until a dry state is reached. The residue is chromatographed on silica gel (mobile solvent ethyl acetate/hexane). 17.27 g (77.9%) of the desired product is obtained. It should be noted that the product is slightly volatile. The bath temperature should not exceed 30° C., and the vacuum of the rotary evaporator is to be adapted.

reactant | 2,6-difluorophenol | 153.74 mmol, 20 g | FC1=C(C(=CC=C1)F)O | C6H4F2O
reactant | potassium carbonate | 307.48 mmol, 42.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 19.1 ml, 2 equivalents | CI | CH3I
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2,6-Difluoroanisole | 17.27 g, 77.9% | FC1=C(C(=CC=C1)F)OC | C7H6F2O
